US04225476
F(3)Preparation of Ethylene/Ethyl Acrylate/Ethylene Diacrylate/Maleic Anhydride Tetrapolymer
The procedure of Part D(1) was repeated except that 0.75 gram of ethylene diacrylate was used in place of allyl acrylate. Yield: 476 grams. 2.3 weight percent of maleic anhydride was present.

reactant | ethylene diacrylate | 0.75 gram | C(C=C)(=O)OCCOC(C=C)=O | C8H10O4
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
product | Ethylene/Ethyl Acrylate Ethylene Diacrylate Maleic Anhydride | C=C.C(C=C)(=O)OCC.C(C=C)(=O)OCCOC(C=C)=O.C1(\C=C/C(=O)O1)=O | InChI=1S/C8H10O4.C5H8O2.C4H2O3.C2H4/c1-3-7(9)11-5-6-12-8(10)4-2;1-3-5(6)7-4-2;5-3-1-2-4(6)7-3;1-2/h3-4H,1-2,5-6H2;3H,1,4H2,2H3;1-2H;1-2H2
